Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
SOB x 5 days, pink sputum x 2 days  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F with history of HIV/AIDS (CD4 171, on HAART), COPD, and 
small cell lung cancer diagnosed ___ (s/p 4 cycles 
carboplat/etop), who presents with SOB.

Of note, the patient had a recent admission for respiratory 
distress caused by her tumor burden, postobstructive PNA and 
bronchomalacia, requiring two ICU stays for hypoxia.  She 
underwent an ___ procedure with debridement of an endobronchial 
tumor with APC and a Y-stent placement. Her hospital course was 
also complicated by a Cdiff infection.

She was discharged on ___ with home hospice to her shelter 
facility. She now returns with respiratory distress. In the 
emergencey department a discussion with her and her HCPs lead to 
the decision to make the patient DNR/DNI and CMO with continued 
antibiotics.

Upon admission to the floor, she is dyspneic and hypotensive.  
Answering questions appropriately but with obvious fatigue and 
respiratory distress.  Family is at her side and confirm wish 
for comfort measures only.

 
Past Medical History:
-- Small Cell Lung Cancer - Dx ___, see below
-- HIV - diagnosed ___ ago. ___ CD4=186, VL32,000  
-- DVT/PE  
-- Asthma  
-- Depression  
-- G6PD deficiency  
-- HTN  
-- Hypercholesterolemia  
-- Low back pain  
-- GERD  
-- History of PPD positivity status post INH in ___  
-- Gastroesophageal reflux, status post fundoplication in ___. 
 
-- History of positive RPR with normal CSF  
-- Thrombocytopenia  
-- Colonic adenoma by colonoscopy in ___  
-- s/p left lower extremity venous stripping  
-- Abdominal wall abscess  
-- History of deep venous thrombophlebitis ___.  
-- History of anal condyloma excised in ___  
..
Small cell lung ca: Diagnosed ___. Completed her fourth cycle 
of chemotherapy with carboplatin and etoposide from ___ 
until ___. 
 
Social History:
___
Family History:
4 children, one son with HIV. Mother: s/p pacer, lymphoma 
 
Physical Exam:
Admission Exam:
Vitals - T: 100.4  BP 80/52  HR 122 RR 40 O2 96/100% FM
General - sitting on side of bed, NAD, hoarse voice, but able to 
talk in full sentances with mild dyspnea  
HEENT - loss of hair, PERRL, oropharynx clear  
Neck - shotty anterior cervical lymphadenopathy  
CV - RRR, no m/r/g  
Chest - R SC portacath in place  
Lungs - minimal exp wheezing, decreased air movement throughout 
R>L, no rhonchi or crackles  
Abdomen - obese, soft, NT/ND, NABS  
Ext - no C/C/E, WWP, no cords, distal pulses 2+  
Neuro: A+Ox3, CN ___ intact b/l, strength ___ throughout  
 
Pertinent Results:
___ 03:40AM   WBC-2.7* RBC-3.19* HGB-11.0* HCT-32.4* 
MCV-102* MCH-34.5* MCHC-33.9 RDW-16.9*\\

___ 04:02AM   TYPE-ART PO2-308* PCO2-58* PH-7.36 TOTAL 
CO2-34* BASE XS-5

___ 03:42AM   LACTATE-2.1*

CHEST (PORTABLE AP)  ___ 3:40 AM
IMPRESSION: No appreciable change in appearance of the chest 
compared to ___. Evidence of ongoing left upper lobe and 
lingular atelectasis secondary to obstructing mediastinal/hilar 
mass. Right upper lung mass which destroys the right third rib 
is redemonstrated.
 
Brief Hospital Course:
___ yo F with HIV/AIDS, Small cell lung cancer, and COPD admitted 
with SOB.

# Respiratory distress: Likely a combination of tumor burden, 
COPD, postobstructive PNA, and mucus plugging.  S/p palliative 
irinotecan ___, and palliative XRT completed 5 fractions ___.  
Given patient & family wishes, focus was primarily on comfort 
and further diagnostic and curative treatments were not pursued. 
 Patient expired ___ from respiratory failure.  

 
Medications on Admission:
Morphine Concentrate ___ mg PO q1h as needed for pain or SOB.
Acetaminophen 325 mg PO Q6H as needed.  
Albuterol Sulfate Inhalation Q2H as needed.
Amitriptyline 50 mg 3 tbl PO HS 
Atovaquone 750 mg/5 mL 5 mL PO BID 
Didanosine 400 mg PO DAILY 
Docusate Sodium 100 mg PO BID 
Enfuvirtide 90 mg bid 
Fosamprenavir 700 mg Tablet PO Q12H 
Ipratropium Bromide 0.02 % Solution Sig: Q6H 
Metoprolol Tartrate 25 mg PO TID 
Nystatin 5 ML PO QID prn
Montelukast 10 mg PO DAILY 
Pantoprazole 40 mg PO Q24H 
Pravastatin 20 mg PO DAILY 
Senna 8.6 mg PO BID as needed.  
Stavudine 20 mg PO Q12H 
Tiotropium Bromide DAILY 
Venlafaxine 150 mg PO DAILY 
Acetylcysteine 20 % 3 ML Q 8H as needed 
Guaifenesin 600 mg 2tbl PO BID (2 times a day).  
Loperamide 2 mg PO QID as needed.  
Oxycodone 5 mg PO Q6H as needed 
Prednisone 5 mg PO DAILY 
 
Discharge Medications:
Expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Small Cell Lung Cancer
 
Discharge Condition:
Expired.
 
Discharge Instructions:
Expired.
 
Followup Instructions:
___